US07772285B2
3.00 g of 4-methylbenzoic acid was suspended in a mixed solvent of 30 mL of methylene chloride and 20 μL of N,N-dimethylformamide, to which 2.9 mL of oxalyl chloride was added dropwise at room temperature, and this suspension was stirred for 5.5 hours at room temperature. Then, 1.79 g of monomethylamine hydrochloride was added to the reaction mixture, to which 15.4 mL of triethylamine was added dropwise in an ice bath, and the mixture was stirred for one hour at room temperature. The reaction mixture, to which water was added, was adjusted to pH 3 with 6M hydrochloric acid, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; chloroform:acetone=5:1] to yield 2.11 g of N,4-dimethylbenzamide as light orange solid.

reactant | 4-methylbenzoic acid | 3.00 g | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | oxalyl chloride | 2.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | monomethylamine hydrochloride | 1.79 g | Cl.CN
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | water | O | H2O
solvent | triethylamine | 15.4 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 μL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | N,4-dimethylbenzamide | 2.11 g | CNC(C1=CC=C(C=C1)C)=O | C9H11NO
